US07759337B2
Synthesis of N-cyclopropyl-3-(1-(4-hydroxy-4-isopropylpiperidin-1-yl)phthalazin-6-yl)-4-methylbenzamide
A mixture of N-cyclopropyl-4-methyl-3-(1-(4-oxopiperidin-1-yl)phthalazin-6-yl)benzamide (100 mg, 250 μmol) (Method A, followed by deprotection of the ketal) in 5 mL THF was stirred at −78° C. and treated with isopropylmagnesium chloride (250 μl, 499 μmol). The mixture was stirred at −78° C. warming to RT over 4 h. The mixture was quenched with 5 mL sat NH4Cl and extracted with dichloromethane (3×50 mL). The combined organics were dried over anhydrous Na2SO4, concentrated in vacuo and purified by silica gel chromatography eluting with 1-5% 2M ammonia methanol/dichloromethane to give the title compound. Found MS (ES+): 445(M+H)+.

reactant | N-cyclopropyl-4-methyl-3-(1-(4-oxopiperidin-1-yl)phthalazin-6-yl)benzamide | 250 μmol, 100 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCC(CC1)=O)=O | C24H24N4O2
reactant | isopropylmagnesium chloride | 499 μmol, 250 μl | C(C)(C)[Mg]Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-3-(1-(4-hydroxy-4-isopropylpiperidin-1-yl)phthalazin-6-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCC(CC1)(C(C)C)O)=O | C27H32N4O2
